US08440832B2
A) 3-((E)-Hex-2-enyl)-3-methyl-2,3-dihydro-benzofuran-6-carboxylic acid methyl ester
To a solution of 4-Iodo-3-(2-methyl-allyloxy)-benzoic acid methyl ester (65 mg, 0.2 mmol) in DMF (2 mL) were added Potassium carbonate (54 mg, 0.39 mmol), Tetrabutylammonium chloride (54 mg, 0.2 mmol), Palladium acetate (3.5 mg, 0.02 mmol) in DMF (5 mL) and 1-Penten-1-ylboronic acid, (26 mg, 0.23 mmol). The resulting mixture was stirred under microwave irradiation (160° C., 15 min), cooled to room temperature, filtered over silica, washed with water, dried over MgSO4 and concentrated. Column chromatography (silica gel, heptane/CH2Cl2: 4/6) afforded title compound as a slightly colorless oil.

reactant | 4-Iodo-3-(2-methyl-allyloxy)-benzoic acid methyl ester | 0.2 mmol, 65 mg | COC(C1=CC(=C(C=C1)I)OCC(=C)C)=O | C12H13IO3
reactant | Potassium carbonate | 0.39 mmol, 54 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-Penten-1-ylboronic acid | 0.23 mmol, 26 mg | C(=CCCC)B(O)O | C5H11BO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | Tetrabutylammonium chloride | 0.2 mmol, 54 mg | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Palladium acetate | 0.02 mmol, 3.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-((E)-Hex-2-enyl)-3-methyl-2,3-dihydro-benzofuran-6-carboxylic acid methyl ester | COC(=O)C1=CC2=C(C(CO2)(C)C\C=C\CCC)C=C1 | C17H22O3
